US07572805B2
Part F. (±)-cis-1-tert-butyl 3-methyl 4-(2-(isopropoxycarbonyl)-3-(trifluoromethyl)phenyl)pyrrolidine-1,3-dicarboxylate
To a solution of (±)-cis-methyl 1-benzyl-4-(2-(isopropoxycarbonyl)-3-(trifluoromethyl)phenyl)pyrrolidine-3-carboxylate (3.3 g, 7.34 mmol) in 100 mL of absolute ethanol was added di-tert-butyl dicarbonate (1.76 g, 8.07 mmol) and 10% Pd/C catalyst (0.66 g, 20 wt %). The resulting mixture was fitted with a three-way stopcock and a hydrogen balloon. The flask was alternatively evacuated (house vacuum) and filled with hydrogen several times and then was allowed to stir under 1 atm of hydrogen for 4 h. The reaction was filtered through a pad of Celite and was concentrated in vacuo. The residue was taken up in EtOAc, washed with 1N HCl, sat'd aq NaHCO3 and brine, dried (MgSO4) and concentrated to afford 3.3 g (98%) of the title compound, which was pure enough to be used without purification. LRMS (ES)+: 482.33 (M+H+Na)+.

reactant | (±)-cis-methyl 1-benzyl-4-(2-(isopropoxycarbonyl)-3-(trifluoromethyl)phenyl)pyrrolidine-3-carboxylate | 7.34 mmol, 3.3 g | C(C1=CC=CC=C1)N1C[C@H]([C@H](C1)C1=C(C(=CC=C1)C(F)(F)F)C(=O)OC(C)C)C(=O)OC | C24H26F3NO4
reactant | di-tert-butyl dicarbonate | 8.07 mmol, 1.76 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.66 g | [Pd] | Pd
product | (±)-cis-1-tert-butyl 3-methyl 4-(2-(isopropoxycarbonyl)-3-(trifluoromethyl)phenyl)pyrrolidine-1,3-dicarboxylate | 3.3 g, 98% | C(C)(C)OC(=O)C1=C(C=CC=C1C(F)(F)F)[C@@H]1[C@@H](CN(C1)C(=O)OC(C)(C)C)C(=O)OC | C22H28F3NO6
